US06107291
1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester (1.6 g, 3.2 mmol) was dissolved in anhydrous methylene chloride (16 mL) and treated with trifluoroacetic acid (4 mL). The solution was stirred at ambient temperature for 3 hrs and then the solvents were removed in vacuo. The residue was coevaporated with toluene two times and then purified by column chromatography (silica) to yield 1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 3-benzyl ester; MS: (M+H)+ 446.

reactant | 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester | 3.2 mmol, 1.6 g | C(C)(C)(C)OC(=O)C1N(CC=CCC1C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H31NO7S
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 3-benzyl ester | C(C1=CC=CC=C1)OC(=O)C1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C22H23NO7S
